US05663200
44c) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3,4-methylenedioxyphenyl)methyl]dihydrofuran-2-(3H)-one
Under an N2 atmosphere, a solution of 500 mg of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one [Example 2b)] in 2 ml of abs. THF and 0.33 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone (DMPU) is cooled down to -75° C. and treated, at an internal temperature of below -70° C., with 3.21 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF (Aldrich, Steinheim, FRG), and this mixture is then stirred at -75° C. for 20 min. 429 mg of 3,4-methylenedioxybenzyl iodide in 1 ml of abs. THF are added dropwise to the reaction solution within the space of 10 min using a syringe, during which period the internal temperature is not allowed to exceed -70° C., and this mixture is then thoroughly stirred at -75° C. for 1 h. 0.611 ml of propionic acid are then added to the clear solution, at from -75° C. to -70° C., using a syringe, and this is followed by 0.611 ml of water. During this procedure, the temperature rises to -30° C. After that, the reaction mixture is diluted with 35 ml of ethyl acetate, and the whole is stirred up with 10 ml of 10% citric acid solution for 5 min in the cold (ice/water cooling). The aqueous phase is separated off and the organic phase is washed, in succession, with saline, sat. sodium bicarbonate solution, and once again with saline. The combined aqueous phases are reextracted 2 times with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated. The title compound is obtained as a brownish oil. Purification is effected by chromatography on silica gel (eluent D). TLC Rf (D)=0.38; FAB-MS (M+H)+ =440.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one | 500 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3,4-methylenedioxybenzyl iodide | 429 mg | C1OC=2C=C(CI)C=CC2O1 | C8H7IO2
reactant | propionic acid | 0.611 ml | C(CC)(=O)O | C3H6O2
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 0.611 ml | O | H2O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone | 0.33 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3,4-methylenedioxyphenyl)methyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC2=C(C=C1)OCO2 | C25H29NO6
